US04666931
2-Acetyl-7-methoxybenzofuran was reacted with ammonium carbonate and sodium cyanide in 60% ethanol to give 2-(4-methyl-2,5-dioxoimidazolidine-4-yl)-7-methoxybenzofuran (yield: 45%, MS (m/z): 260 (M+), 245, 189 and 174), which was then reacted with chlorosulfonic acid as in Example 1, yielding 2-(4-methyl-2,5-dioxoimidazolidine-2-yl)-4,6-dichlorosulfonyl-7-methoxybenzofuran (yield: 83%, MS (m/z): 456 (M+), 421, 385 and 350). The obtained product was reacted with glycine-t-butyl ester hydrochloride as in Example 19 to give a di-t-butyl ester compound (yield: 90%), which was treated with trifluoroacetic acid as in Example 19 to give 2-(4-methyl-2,5-dioxoimidazolidine-4-yl)-4,6-di(N-carboxymethylsulfamoyl)-7-methoxybenzofuran (colorless amorphous powder, yield: 97%). The physical constants are shown in Table 4.

reactant | 2-Acetyl-7-methoxybenzofuran | C(C)(=O)C=1OC2=C(C1)C=CC=C2OC | C11H10O3
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | ethanol | C(C)O | C2H6O
product | 2-(4-methyl-2,5-dioxoimidazolidine-4-yl)-7-methoxybenzofuran | yield: 45% | CC1(NC(NC1=O)=O)C=1OC2=C(C1)C=CC=C2OC | C13H12N2O4
